US09303000B2
Synthesis of 3-cyano-5-(trifluoromethyl)benzamide
In 1-neck 250 mL round-bottomed flask, 3-cyano-5-(trifluoromethyl)benzoyl chloride (3.0 g, 1.0 eq.) was dissolved in THF (30 mL, 10 V) at 0° C. Ammonia gas was added and the reaction mixture was stirred for 1-2 h at 0° C. The progress of the reaction was followed by TLC analysis on silica gel with ethyl acetate:hexane (5:5) as mobile phase and visualization with UV, SM Rf=0.10 and Product Rf=0.25. Reaction mixture was quenched into the ice-water slurry (100 mL) and extracted in the ethyl acetate (100 mL×3). Organic layer was washed with brine solution (100 mL) followed by drying using anhydrous sodium sulphate. Organic layer was concentrated under reduced pressure to afford 2.5 g of crude compound as white solid, yield (88%). This crude 3-cyano-5-(trifluoromethyl)benzamide was directly used for next step without purification; Mass: (ES−) 212.95 (M−1).

reactant | 3-cyano-5-(trifluoromethyl)benzoyl chloride | 3.0 g, 1.0 eq. | C(#N)C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F | C9H3ClF3NO
reactant | Ammonia | N | H3N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-cyano-5-(trifluoromethyl)benzamide | 2.5 g | C(#N)C=1C=C(C(=O)N)C=C(C1)C(F)(F)F | C9H5F3N2O
